US05084461
Dissolve 8-bromooctanoic acid (1.0 g) in anhydrous toluene (3 mL) and add triphenylphosphine (1.21 g). Heat to reflux overnight. Separate the lower phase crystallize (ethanol/ethyl ether) to give (8-carboxyoctyl)triphenylphosphonium bromide (1.0 g).

reactant | 8-bromooctanoic acid | 1.0 g | BrCCCCCCCC(=O)O | C8H15BrO2
reactant | triphenylphosphine | 1.21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | (8-carboxyoctyl)triphenylphosphonium bromide | 1.0 g | [Br-].C(=O)(O)CCCCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C27H31O2P.BrH/c28-27(29)22-14-3-1-2-4-15-23-30(24-16-8-5-9-17-24,25-18-10-6-11-19-25)26-20-12-7-13-21-26;/h5-13,16-21H,1-4,14-15,22-23H2;1H
